### PR TITLE
[Merged by Bors] - feat(Topology/Algebra/StrongTopology): introduce type synonym for abstract topologies on CLM

### PR DESCRIPTION
**Pull request by mcdoll**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Topology/Algebra/Module/StrongTopology.lean [hunk 1]
```diff
@@ -311,10 +337,77 @@ end BilinearMaps
...
+    simpa using h {x} (Set.finite_singleton _) u hu
+  · intro h s hs u hu
+    rw [Filter.eventually_all_finite hs]
+    intro x _hx
+    exact h x u hu
+
+end PointwiseConvergenceCLM
+
+end
+
```
Comment (mcdoll) [inline Mathlib/Topology/Algebra/Module/StrongTopology.lean:404]: Move this to another PR
```suggestion
```

**Comment by mcdoll** [comment]
For a less bulky PR I split off the pointwise convergence topology into #11496

File: Mathlib/Topology/Algebra/Module/StrongTopology.lean [hunk 2]
```diff
@@ -72,125 +72,151 @@ variable {𝕜₁ 𝕜₂ : Type*} [NormedField 𝕜₁] [NormedField 𝕜₂] (
...
 topological vector space. -/
-def strongTopology [TopologicalSpace F] [TopologicalAddGroup F] (𝔖 : Set (Set E)) :
-    TopologicalSpace (E →SL[σ] F) :=
+@[nolint unusedArguments]
+def UniformConvergenceCLM [TopologicalSpace F] [TopologicalAddGroup F] (_ : Set (Set E)) :=
+  E →SL[σ] F
+
+namespace UniformConvergenceCLM
+
+instance funLike [TopologicalSpace F] [TopologicalAddGroup F]
```
Comment (j-loreaux) [inline Mathlib/Topology/Algebra/Module/StrongTopology.lean:81]:
```suggestion
instance instFunLike [TopologicalSpace F] [TopologicalAddGroup F]
```

File: Mathlib/Topology/Algebra/Module/StrongTopology.lean [hunk 3]
```diff
@@ -72,125 +72,151 @@ variable {𝕜₁ 𝕜₂ : Type*} [NormedField 𝕜₁] [NormedField 𝕜₂] (
...
   haveI : UniformAddGroup F := comm_topologicalAddGroup_is_uniform
-  letI : UniformSpace (E →SL[σ] F) := strongUniformity σ F 𝔖
-  haveI : UniformAddGroup (E →SL[σ] F) := strongUniformity.uniformAddGroup σ F 𝔖
   infer_instance
-#align continuous_linear_map.strong_topology.topological_add_group ContinuousLinearMap.strongTopology.topologicalAddGroup
+#align continuous_linear_map.strong_topology.topological_add_group UniformConvergenceCLM.instTopologicalAddGroup
 
-theorem strongTopology.t2Space [TopologicalSpace F] [TopologicalAddGroup F] [T2Space F]
-    (𝔖 : Set (Set E)) (h𝔖 : ⋃₀ 𝔖 = Set.univ) : @T2Space (E →SL[σ] F) (strongTopology σ F 𝔖) := by
+theorem t2Space [TopologicalSpace F] [TopologicalAddGroup F] [T2Space F]
```
Comment (j-loreaux) [inline Mathlib/Topology/Algebra/Module/StrongTopology.lean:140]: I think this is okay now, no?
```suggestion
instance t2Space [TopologicalSpace F] [TopologicalAddGroup F] [T2Space F]
```

**Review by j-loreaux — COMMENTED** [review]
Sorry for the delay in review. Looks good!

bors d+

File: Mathlib/Topology/Algebra/Module/StrongTopology.lean (hunk 3 above)
Comment (mcdoll) [reply Mathlib/Topology/Algebra/Module/StrongTopology.lean:141]: I think that doesn't ever fire, because in every concrete case we still have to show `⋃₀ 𝔖 = Set.univ` and together with that proof we want to have an instance.

**Comment by ADedecker** [comment]
Just coming by to say thanks for this work! In particular I'm happy that we're not emphasizing the "strong topology" name, which could have been confusing (have you considered renaming the file? That can wait for a later PR of course).

**Comment by mcdoll** [comment]
bors merge
Yes, the name is far from perfect, but I am not too keen on doing renaming PRs, they tend to have a very poor time to usefulness ratio.
